US05700809
4-(Benzothiophen-2-yl)-1,2,3,6-tetrahydropyridine Hydrochloride
To a solution of 1-benzyl-4-(benzothiophen-2-yl)-1,2,3,6-tetrahydropyridine (4 g, 13.1 mmol) in anhydrous dichloromethane (50 ml) at 0° C. under nitrogen was added 2-chloroethylchloroformate (1.84 ml, 17.0 mmol) and the mixture stirred for 1 hr. The reaction mixture was concentrated in vacuo and methanol (20 ml) added and the solution heated to reflux for 1 hr. After cooling the title compound was collected by filtration (2.2 g, 67%), m.p. 269° C. (dec.).

reactant | 1-benzyl-4-(benzothiophen-2-yl)-1,2,3,6-tetrahydropyridine | 13.1 mmol, 4 g | C(C1=CC=CC=C1)N1CCC(=CC1)C=1SC2=C(C1)C=CC=C2 | C20H19NS
reactant | 2-chloroethylchloroformate | 17.0 mmol, 1.84 ml | ClCCOC(=O)Cl | C3H4Cl2O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(Benzothiophen-2-yl)-1,2,3,6-tetrahydropyridine Hydrochloride | Cl.S1C(=CC2=C1C=CC=C2)C=2CCNCC2 | InChI=1S/C13H13NS.ClH/c1-2-4-12-11(3-1)9-13(15-12)10-5-7-14-8-6-10;/h1-5,9,14H,6-8H2;1H
